US06887896B1
7-Bromo-6-ethoxy-4,4-dimethyl-3,4-dihydro-2H-naphthalen-1-one (Compound A-4)
To 6-bromo-7-ethoxy-1,1-dimethyl-1,2,3,4-tetrahydronaphthalene (Compound A-3, 5.83 g, 20.6 mmol) in dichloromethane (25 mL) and tert-butyl hydroperoxide (25 mL) at room temperature was added a catalytic amount of chromium (VI) oxide. The reaction was stirred overnight. Quenched the reaction with water and followed by extraction with diethylether. The organic layers were washed with water, brine, dried over Na2SO4 and concentrated in vacuo. Purification by flash column chromatography (silica gel, 2% ethyl acetate/hexane) yielded the title compound as a white solid.

reactant | 6-bromo-7-ethoxy-1,1-dimethyl-1,2,3,4-tetrahydronaphthalene | 20.6 mmol, 5.83 g | BrC=1C=C2CCCC(C2=CC1OCC)(C)C | C14H19BrO
reactant | tert-butyl hydroperoxide | 25 mL | C(C)(C)(C)OO | C4H10O2
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
catalyst | chromium (VI) oxide | [O-2].[Cr+6].[O-2].[O-2]
product | 7-Bromo-6-ethoxy-4,4-dimethyl-3,4-dihydro-2H-naphthalen-1-one | BrC1=C(C=C2C(CCC(C2=C1)=O)(C)C)OCC | C14H17BrO2
